US05102890
4-Methylpentanoic acid (2.4 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (3.05 g) are added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (6.6 g) in anhydrous dimethylformamide (60 cc), and the suspension obtained is stirred for 24 hours at a temperature in the region of 20° C. Distilled water (500 cc) and dichloromethane (150 cc) are then added. The aqueous phase is separated after settling has occurred and then re-extracted with dichloromethane (2×150 cc). The organic phases are combined, washed with distilled water (3×50 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. The oily residue is purified by chromatography on silica gel (150 g) contained in a column 3.5 cm in diameter [eluant: dichloromethane/methanol (98.2 by volume)]. Elution is first performed with 200 cc of solvent: the corresponding eluate is discarded; elution is then performed with 900 cc of solvent: the corresponding eluate is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in ethanol, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-methylpentanoate (4 g), m.p. 147° C., is obtained.

reactant | 4-Methylpentanoic acid | 2.4 g | CC(CCC(=O)O)C | C6H12O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.05 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.6 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | water | 500 cc | O | H2O
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
solvent | dichloromethane | 150 cc | ClCCl | CH2Cl2
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-methylpentanoate | 4 g | CC(CCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl)C | C22H20ClN3O3
